* Full Adder

.include ../Gates/or.sub
.include halfAdder.sub

.subckt fulladder sum carry A B Cin Vdd Gnd

xhalfadder1 temp1 temp2 A B Vdd Gnd halfadder
xhalfadder2 sum temp3 temp1 Cin Vdd Gnd halfadder
xor1 carry temp2 temp3 Vdd Gnd or

.ends