* Half Adder

.include ../Gates/and.sub
.include ../Gates/xor.sub

.subckt halfadder sum carry A B Vdd Gnd

xxor1 sum A B Vdd Gnd xor
xand1 carry A B Vdd Gnd and

.ends