* 2 Input AND Gate

.subckt and output A B Vdd Gnd

* NAND Gate

MP1 nand A Vdd Vdd CMOSP W={width_P} L={LAMBDA}
MP2 nand B Vdd Vdd CMOSP W={width_P} L={LAMBDA}
MN1 nand A temp Gnd CMOSN W={width_N} L={LAMBDA}
MN2 temp B Gnd Gnd CMOSN W={width_N} L={LAMBDA}

* NOT Gate (Inverter)

MP3 output nand Vdd Vdd CMOSP W={width_P} L={LAMBDA}
MN3 output nand Gnd Gnd CMOSN W={width_N} L={LAMBDA}

.ends