* NOT Gate

.subckt not output A Vdd Gnd

* NOT Gate

MP1 output A Vdd Vdd CMOSP W={width_P} L={LAMBDA}
MN1 output A Gnd Gnd CMOSN W={width_N} L={LAMBDA}

.ends