* 2 Input OR Gate

.subckt or output A B Vdd Gnd

* NOR Gate

MP1 temp A Vdd Vdd CMOSP W={width_P} L={LAMBDA}
MP2 nor B temp Vdd CMOSP W={width_P} L={LAMBDA}
MN1 nor A Gnd Gnd CMOSN W={width_N} L={LAMBDA}
MN2 nor B Gnd Gnd CMOSN W={width_N} L={LAMBDA}

* NOT Gate (Inverter)

MP3 output nor Vdd Vdd CMOSP W={width_P} L={LAMBDA}
MN3 output nor Gnd Gnd CMOSN W={width_N} L={LAMBDA}

.ends