* 2 Input XOR Gate

* A XOR B = A.B' + A'.B

.include not.sub
.include and.sub
.include or.sub

.subckt xor output A B Vdd Gnd

xnot1 Anot A Vdd Gnd not
xnot2 Bnot B Vdd Gnd not
xand1 temp1 A Bnot Vdd Gnd and
xand2 temp2 Anot B Vdd Gnd and
xor1 output temp1 temp2 Vdd Gnd or

.ends